US08871738B2
To benzyl {(1S)-4-{(2S,3S)-3-[3,5-bis(trifluoromethyl)phenyl]oxiran-2-yl}-1-[2-bromo-5-(trifluoromethyl)phenyl]butyl}carbamate (500 mg, 0.731 mmol) in DMF (2 mL) was added DBU (111 mg, 0.731 mmol). The system was heated to 125° C. for 6 hours. The solvent was removed in vacuo. The reaction was diluted with ethyl acetate and water. The organic was dried over sodium sulfate, filtered and concentrated. The resultant oil was purified by column chromatography to yield (R)-[3,5-bis(trifluoromethyl)phenyl]{(2S,6S)-6-[2-bromo-5-(trifluoromethyl)phenyl]piperidin-2-yl}methanol (280 mg, 0.509 mmol). 1H NMR (500 MHz, CDCl3) δ7.9 (s, 2H), 7.81 (d, J=5.4 Hz, 2H), 7.64 (d, J=8.3 Hz, 1H), 7.35 (d, J=8.3 Hz, 1H), 5.14 (d, J=8.2 Hz, 1H), 4.51 (m, 1H), 3.16 (m, 1H), 2.06 (m, 1H), 1.95 (m, 1H), 1.80 (m, 2H), 1.62 (m, 1H), 1.29 (m, 1H).

reactant | benzyl {(1S)-4-{(2S,3S)-3-[3,5-bis(trifluoromethyl)phenyl]oxiran-2-yl}-1-[2-bromo-5-(trifluoromethyl)phenyl]butyl}carbamate | 0.731 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]1[C@@H](O1)CCC[C@@H](C1=C(C=CC(=C1)C(F)(F)F)Br)NC(OCC1=CC=CC=C1)=O)(F)F | C29H23BrF9NO3
reactant | DBU | 0.731 mmol, 111 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-[3,5-bis(trifluoromethyl)phenyl]{(2S,6S)-6-[2-bromo-5-(trifluoromethyl)phenyl]piperidin-2-yl}methanol | 0.509 mmol, 280 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](O)[C@H]1N[C@@H](CCC1)C1=C(C=CC(=C1)C(F)(F)F)Br)(F)F | C21H17BrF9NO
